US06521754B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-phenyl-acetamide
Using 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine and phenylacetyl chloride the title compound was obtained as a light yellow solid (37%), MS: m/e=384 (M+H+).

reactant | 4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl-amine | COC1=CC=C(C2=C1N=C(S2)N)N2CCOCC2 | C12H15N3O2S
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-phenyl-acetamide | COC1=CC=C(C2=C1N=C(S2)NC(CC2=CC=CC=C2)=O)N2CCOCC2 | C20H21N3O3S
